US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (100 mg, 0.143 mmol) in methanol (1 mL) and pyridine (1 mL) was added hydroxylamine hydrochloride (100 mg, 1.43 mmol) at room temperature, and the mixture was stirred under nitrogen overnight. The mixture was diluted with ethyl acetate, washed with 1N HCl and brine, dried (Na2SO4), filtered and concentrated. The residue was purified by preparative TLC (silica gel, 95:5 chloroform/methanol) to afford (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-(hydroxyimino)-6a-methoxy-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (17 mg, 16%) as an orange solid: 1H NMR (500 MHz, CDCl3) δ 12.02 (s, 1H), 8.45 (s, 1H), 6.93 (s, 1H), 6.54 (s, 1H), 6.52 (d, J=9.0 Hz, 1H), 5.33 (br s, 1H), 5.00 (br s, 1H), 4.84-4.82 (m, 2H), 3.83 (s, 3H), 3.80 (s, 3H), 3.78-3.68 (m, 3H), 3.62 (s, 3H), 3.54 (dd, J=19.5, 6.5 Hz, 1H), 3.45-3.42 (m, 1H), 3.43 (s, 3H), 3.36 (d, J=19.5 Hz, 1H), 3.13 (t, J=9.5 Hz, 1H), 2.46 (d, J=5.0 Hz, 1H), 2.39 (s, 3H), 1.38 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 713 (M+H); HPLC 95.0% (AUC), tR 12.31 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.143 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | hydroxylamine hydrochloride | 1.43 mmol, 100 mg | Cl.NO
solvent | methanol | 1 mL | CO | CH4O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-(hydroxyimino)-6a-methoxy-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 17 mg, 16% | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=C\C(\C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=N/O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H36N2O15
